US07179823B1
Lithium aluminum hydride (320 mg) was added gradually to a solution of methyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylate (4.00 g) in tetrahydrofuran (30 ml) at 0° C., which was stirred for 2 hours. Sodium sulfate decahydrate (2.95 g) was added to the reaction mixture, and the precipitate was separated by filtration. The filtrate was concentrated, and the residue was subjected to silica gel column chromatography to obtain [3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]methanol (3.56 g, yield 97%) as colorless crystals. This was recrystallized from ethyl acetate-hexane. Melting point: 103–104° C.

reactant | Lithium aluminum hydride | 320 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylate | 4.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1C(=O)OC)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C29H25N3O5
reactant | Sodium sulfate decahydrate | 2.95 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]methanol | 3.56 g, yield 97% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1CO)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H25N3O4
